US09056873B2
A solution of tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (53 mg, 0.106 mmol), 2-(tributylstannyl)thieno[2,3-c]pyridine (44.9 mg, 0.106 mmol) and tetrakis(triphenylphosphine) palladium(0) (122 mg, 0.106 mmol) in toluene (3 mL) was heated to 120° C. in a microwave for 60 minutes. The reaction mixture was diluted with EtOAc (50 mL) and saturated aqueous NaHCO3 (100 mL). The organic layer was separated and the aqueous layer was washed with EtOAc (50 mL). The organic layers were combined and dried over Na2SO4, and the solvent was removed in vacuo to give the intermediate, tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-3-oxo-4-(thieno[2,3-c]pyridin-2-yl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate. The intermediate was dispersed in TFA and DCM (10 mL). The mixture was stirred at room temperature for 60 minutes and then concentrated. The resulting crude material was reconstituted in MeOH and DCM (10.0 mL) and purified via preparative HPLC, eluting with a gradient of 10-25% ACN (0.035% TFA) and H2O (0.05% TFA). The collected fractions were combined and diluted with EtOAc (50 mL) and saturated aqueous NaHCO3 (100 mL). The organic layer was separated and the aqueous layer was extracted with EtOAc (50 mL). The organic layers were combined and dried over Na2SO4, and the solvent was removed in vacuo to give the title compound (5.8 mg, 14%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.83 (d, J=8.79 Hz, 1H), 2.10-2.27 (m, 1H), 3.81-3.92 (m, 2H), 3.98-4.16 (m, 3H), 4.34-4.48 (m, 1H), 4.52 (br s, 2H), 7.55 (d, J=5.37 Hz, 1H), 7.97-8.08 (m, 3H), 8.53 (br s, 1H), 8.75 (s, 1H), 9.34 (br s, 1H), 9.53 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C19H18FN5O2S, 400. found, 400.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.106 mmol, 53 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
reactant | 2-(tributylstannyl)thieno[2,3-c]pyridine | 0.106 mmol, 44.9 mg | C(CCC)[Sn](C1=CC=2C(=CN=CC2)S1)(CCCC)CCCC
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.106 mmol, 122 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-3-oxo-4-(thieno[2,3-c]pyridin-2-yl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CC=3C(=CN=CC3)S1)C(N(C2)C(=O)OC(C)(C)C)=O)F | C29H34FN5O6S
